US07304161B2
To a round bottom flask equipped with magnetic stirring was added 3-hydroxymethyl-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carboxylic acid methyl ester (6.40 g, 26.9 mmol), barium hydroxide monohydrate (25.44 g, 134.3 mmol), and methanol (108 mL). This mixture was stirred at room temperature for 24 hours. The methanol was evaporated. The resulting slurry was taken up in water and washed once with ether. The aqueous layer was acidified by pouring into iced concentrated HCl. This was extracted twice with ethyl acetate. The ethyl acetate extracts were combined, dried over magnesium sulfate, filtered and evaporated to give a yellow solid, 3-hydroxymethyl-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carboxylic acid, (4.82 g, 21.5 mmol) in 80% yield. 1H-NMR (300 MHz, CD3COCD3) δ (ppm): 2.45 (s, 3H), 3.85 (m, 2H), 4.12 (m, 1H), 4.24 (m, 1H), 4.41 (m, 1H), 6.76 (d, 1H), 7.51 (d, 1H); TLC: Rf=0.32 (1:1 ethyl acetate/hexane).

reactant | 3-hydroxymethyl-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carboxylic acid methyl ester | 26.9 mmol, 6.40 g | COC(=O)C1=C(C2=C(OCC(O2)CO)C=C1)C | C12H14O5
reactant | barium hydroxide monohydrate | 134.3 mmol, 25.44 g | O.[OH-].[Ba+2].[OH-]
solvent | methanol | 108 mL | CO | CH4O
product | 3-hydroxymethyl-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carboxylic acid | 21.5 mmol, 4.82 g, 80% yield | OCC1OC2=C(OC1)C=CC(=C2C)C(=O)O | C11H12O5
